US06331538B1
1-Ethyl-5,6,8-trifluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
A solution of 3-benzyloxy-1-ethyl-5,6,8-trifluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example X-3, 0.15 g, 0.36 mmol) in trifluoroacetic acid (5.0 mL) was reacted with a 1.0 M solution of boron tris(trifluoroacetate) (1.8 mL, 1.8 mmol) in TFA and allowed to stir for 1 hour. The mixture was then concentrated and the residue dissolved in methanol and concentrated. This process was repeated three times. The residue was then triturated from dietbyl ether and filtered to provide 0.11 g of the title compound as a solid, mp 223-225° C.

reactant | 3-benzyloxy-1-ethyl-5,6,8-trifluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.36 mmol, 0.15 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C(=C(C(=C2C1=O)F)F)N1CCCC1)F)CC)=O | C21H20F3N3O3
reactant | boron tris(trifluoroacetate) | 1.8 mmol, 1.8 mL | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[B+3]
solvent | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-Ethyl-5,6,8-trifluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.11 g | C(C)N1C(N(C(C2=C(C(=C(C(=C12)F)N1CCCC1)F)F)=O)O)=O | C14H14F3N3O3
